US07915424B2
3-Methoxy-5-(3-trifluoromethyl-phenylethynyl)-pyridine
Prepare essentially as described in PREPARATION 10 using 1-iodo-3-trifluoromethylbenzene (0.430 mL, 3.0 mmol) and 3-ethynyl-5-methoxypyridine, (prepared essentially as described in PREPARATION 10), (415 mg, 3.1 mmol) at room temperature for 16 h to give the title compound (541 mg, 65%).

reactant | 1-iodo-3-trifluoromethylbenzene | 3.0 mmol, 0.430 mL | IC1=CC(=CC=C1)C(F)(F)F | C7H4F3I
reactant | 3-ethynyl-5-methoxypyridine | C(#C)C=1C=NC=C(C1)OC | C8H7NO
product | 3-Methoxy-5-(3-trifluoromethyl-phenylethynyl)-pyridine | 541 mg, 65% | COC=1C=NC=C(C1)C#CC1=CC(=CC=C1)C(F)(F)F | C15H10F3NO
